US08981084B2
3-Methyl-piperazine-1-carboxylic acid tert-butyl ester (200 mg, 1.0 mmol) was dissolved in dry DMF (10 mL) taken in a shield tube. To the reaction mixture was added 6-chloronicotinonitrile (70 mg, 1.0 mmol) followed by potassium carbonate (140 mg, 1.0 mmol) and the mixture was heated to 150° C. for 3 h. The reaction mixture was cooled to room temperature and the solvent was evaporated under reduced pressure. The product was extracted with EtOAc and the organic layer was washed with H2O and brine and dried over anhydrous sodium sulfate. Solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 30% EtOAc in petroleum ether) to afford compound tert-butyl 4-(5-cyanopyridin-2-yl)-3-methylpiperazine-1-carboxylate (120 mg, yield 40%) as yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.42 (d, J=2.2 Hz, 1H), 7.63 (dd, J=9.0 Hz, J=2.4 Hz, 1H), 6.56 (d, J=9.0 Hz, 1H), 4.53 (m, 1H), 4.13-3.91 (m, 3H), 3.29-3.16 (m, 2H), 3.02 (m, 1H), 1.49 (s, 9H), 1.20 (d, J=6.6 Hz, 3H).

reactant | 3-Methyl-piperazine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C | C10H20N2O2
reactant | 6-chloronicotinonitrile | 1.0 mmol, 70 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-cyanopyridin-2-yl)-3-methylpiperazine-1-carboxylate | 120 mg, yield 40% | C(#N)C=1C=CC(=NC1)N1C(CN(CC1)C(=O)OC(C)(C)C)C | C16H22N4O2
